US08957070B2
Ethyl 1-(methoxymethyl)-7-nitro-5-(trifluoromethoxy)-1H-indole-2-carboxylate
A mixture of ethyl 7-nitro-5-(trifluoromethoxy)-1H-indole-2-carboxylate (1.19 g), 60% sodium hydride (0.18 g) and N,N-dimethylformamide (20 mL) was stirred at 4° C. for 20 min. A solution (5 mL) of chloromethyl methyl ether (0.33 mL) in tetrahydrofuran was added dropwise. After stirring at 4° C. for 3 hr, the reaction solution was diluted with ethyl acetate, washed with aqueous citric acid solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=5:95-20:80) to give the title compound (1.0 g, yield 74%) as pale-yellow prism crystals.

reactant | ethyl 7-nitro-5-(trifluoromethoxy)-1H-indole-2-carboxylate | 1.19 g | [N+](=O)([O-])C=1C=C(C=C2C=C(NC12)C(=O)OCC)OC(F)(F)F | C12H9F3N2O5
reactant | sodium hydride | 0.18 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | chloromethyl methyl ether | 5 mL | COCCl | C2H5ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 1-(methoxymethyl)-7-nitro-5-(trifluoromethoxy)-1H-indole-2-carboxylate | 1.0 g, yield 74% | COCN1C(=CC2=CC(=CC(=C12)[N+](=O)[O-])OC(F)(F)F)C(=O)OCC | C14H13F3N2O6
